US08252781B2
Preparation of 4,4-dimethyl-1-(phenylsulfonyl)-2-(adamantan-2-yl)-1,2-diazetidin-3-one
2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one and benzene sulfonyl chloride were used for a similar reaction and treatment as Example 169, and the title compound was obtained as a colorless crystalline powder.

reactant | 2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | benzene sulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 4,4-dimethyl-1-(phenylsulfonyl)-2-(adamantan-2-yl)-1,2-diazetidin-3-one | CC1(C(N(N1S(=O)(=O)C1=CC=CC=C1)C1C2CC3CC(CC1C3)C2)=O)C | C20H26N2O3S
